US08440673B2
To a stirred solution of 5-iodo-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide (0.15 g, 0.367 mmol) in 1 ml DMF was added pyrazole (0.062 g, 0.917 mmol), CuI (0.03667 mmol), 1,10-phenanthroline (0.0734 mmol) and Cs2CO3 (0.734 mmol). The mixture was subjected to microwave irridation at 150° C. for 45 minutes. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by preparative HPLC to give 4′-Methyl-5-pyrazol-1-yl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide, MS (M+H)=350.

reactant | 5-iodo-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 0.367 mmol, 0.15 g | COCC(C)NC(=O)C=1C=C(C=C(C1)I)C1=CC=C(C=C1)C | C18H20INO2
reactant | pyrazole | 0.917 mmol, 0.062 g | N1N=CC=C1 | C3H4N2
reactant | 1,10-phenanthroline | 0.0734 mmol | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 0.734 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.03667 mmol | [Cu]I
product | 4′-Methyl-5-pyrazol-1-yl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | COCC(C)NC(=O)C=1C=C(C=C(C1)N1N=CC=C1)C1=CC=C(C=C1)C | C21H23N3O2
